US07618961B2
Ethyl (2-{[(4-bromo-5-chloro-2-thienyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-bromo-5-chlorothiophene-2-sulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (40.9 mg) with purity >90%. MS pos) m/z 445.0, 447.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-bromo-5-chlorothiophene-2-sulfonyl chloride | BrC=1C=C(SC1Cl)S(=O)(=O)Cl | C4HBrCl2O2S2
product | Ethyl (2-{[(4-bromo-5-chloro-2-thienyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | BrC=1C=C(SC1Cl)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C11H10BrClN2O4S3
